US06887896B1
(2E)-3-(4-Bromo-8-tert-butyl-3-isopropoxy-5,5-dimethyl-5,6-dihydro-naphthalen-2-yl)-2-fluoro-but-2-en-1-ol (Compound A-142)
Following General Procedure G-1, ethyl (2E)-3-(4-bromo-8-tert-butyl-3-isopropoxy-5,5-dimethyl-5,6-dihydro-naphthalen-2-yl)-2-fluoro-but-2-enoate (Compound A-131, 115 mg, 0.24 mmol) and diisobutylaluminum hydride (1M in methylene chloride, 0.64 mL, 0.64 mmol) were reacted to give the title compound as a colorless oil after purification by flash chromatography (silica gel, 10% ethyl acetate in hexanes).

reactant | ethyl (2E)-3-(4-bromo-8-tert-butyl-3-isopropoxy-5,5-dimethyl-5,6-dihydro-naphthalen-2-yl)-2-fluoro-but-2-enoate | 0.24 mmol, 115 mg | BrC1=C(C(=CC=2C(=CCC(C12)(C)C)C(C)(C)C)/C(=C(\C(=O)OCC)/F)/C)OC(C)C | C25H34BrFO3
reactant | diisobutylaluminum hydride | 0.64 mmol, 1M, 0.64 mL | [H-].C(C(C)C)[Al+]CC(C)C
product | (2E)-3-(4-Bromo-8-tert-butyl-3-isopropoxy-5,5-dimethyl-5,6-dihydro-naphthalen-2-yl)-2-fluoro-but-2-en-1-ol | BrC1=C(C(=CC=2C(=CCC(C12)(C)C)C(C)(C)C)/C(=C(\CO)/F)/C)OC(C)C | C23H32BrFO2
